US07572794B2
Preparation of 2,6-dimethyl-morpholine-4-carboxylic acid amide
To a stirred solution of 2,6-dimethylmorpholine (mixture of cis- and trans-isomers, 1.7 g, 15 mmol) in isopropanol (30 mL) at rt was added trimethylsilylisocyanate (2.8 mL, 21 mmol) and the resulting solution stirred overnight before the volatiles were removed in vacuo to give a mixture of cis- and trans-2,6-dimethyl-morpholine-4-carboxylic acid amide (2.7 g, quant.) as a solid; m/z (ES+) 158 [M+H]+.

reactant | 2,6-dimethylmorpholine | 15 mmol, 1.7 g | CC1CNCC(O1)C | C6H13NO
reactant | trimethylsilylisocyanate | 21 mmol, 2.8 mL | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | isopropanol | 30 mL | C(C)(C)O | C3H8O
product | 2,6-dimethyl-morpholine-4-carboxylic acid amide | CC1CN(CC(O1)C)C(=O)N | C7H14N2O2
